US08039479B2
To the solution of 4-(1-hydroxy-6-isopropoxy-5-nitro-3-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester from the previous step (173.9 mg, 0.4 mmol) in DMF (4 mL) is added pyridinum dichromate (286.5 mg, 0.8 mmol) in one portion. After stirring at room temperature for 2 h, the reaction mixture is poured into 25 mL of water and the product is extracted with EtOAc. The organic extracts are dried over Na2SO4, filtered and concentrated in vacuo to give crude 4-(5-isopropoxy-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester, which is directly used in the next step without further purification.

reactant | 4-(1-hydroxy-6-isopropoxy-5-nitro-3-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2=CC(=C(C=C2C1=O)[N+](=O)[O-])OC(C)C)O | C21H29N3O7
reactant | dichromate | 0.8 mmol, 286.5 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | water | 25 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-(5-isopropoxy-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2=CC(=C(C=C2C1=O)OC(C)C)[N+](=O)[O-])=O | C21H27N3O7
